US09102614B2
Preparation of ethyl 2-(7-chloro-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-hydroxyacetate:
A solution of ethyl 2-(7-chloro-1-(4-chlorophenyl)-3-methyl-naphthalen-2-yl)-2-oxoacetate (26 mg, 67 μmol) in EtOH (absolute, 1.0 mL) and DCM (1.0 mL) was treated with NaBH4 (5.1 mg, 0.134 mmol) at 23° C. After 1 h, saturated NH4Cl (1.0 mL) was added. The reaction was stirred overnight, then diluted with H2O (10 mL). The mixture was extracted with DCM (3×), and the combined organics dried (Na2SO4), filtered, and concentrated, giving the title compound (28 mg, >99% yield). 1H-NMR: (400 MHz, CDCl3): δ 7.72 (d, J=8.6 Hz, 1H), 7.65 (s, 1H), 7.51-7.22 (m, 6H), 5.19 (s, 1H), 4.35-4.17 (m, 2H), 2.49 (s, 3H), 1.20 (t, J=7.0 Hz, 3H).

reactant | ethyl 2-(7-chloro-1-(4-chlorophenyl)-3-methyl-naphthalen-2-yl)-2-oxoacetate | 67 μmol, 26 mg | ClC1=CC=C2C=C(C(=C(C2=C1)C1=CC=C(C=C1)Cl)C(C(=O)OCC)=O)C | C21H16Cl2O3
reactant | NaBH4 | 0.134 mmol, 5.1 mg | [BH4-].[Na+]
reactant | NH4Cl | 1.0 mL | [NH4+].[Cl-]
solvent | EtOH | 1.0 mL | CCO | C2H6O
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 10 mL | O | H2O
product | ethyl 2-(7-chloro-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-hydroxyacetate | 28 mg, >99% yield | ClC1=CC=C2C=C(C(=C(C2=C1)C1=CC=C(C=C1)Cl)C(C(=O)OCC)O)C | C21H18Cl2O3
